US05859044
1-(4-Nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Ethyl Ester
A solution of 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid ethyl ester (3.28 g, 8.13 mmol), tributyltin methoxide (3.92 g, 3.51 ml, 12.2 mmol), isopropenyl acetate (1.22 g, 1.34 ml, 12.2 mmol), palladium (II) acetate (91 mg, 0.41 mmol) and tri-o-tolylphosphine (248 mg, 0.813 mmol) in toluene (10 ml) was heated at about 95° C. under nitrogen for about 3 hours. The reaction solution was cooled, concentrated in vacuo, and subjected to flash chromatography on silica (200 g, gradient from 10% ethyl acetate/hexane to 40% ethyl acetate/hexane), and then the partially pure product was recrystallized from toluene/heptane to give the title compound (1.91 g).

reactant | 5-bromo-1-(4-nitro-benzyl)-1H-indole-2-carboxylic acid ethyl ester | 8.13 mmol, 3.28 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)CC1=CC=C(C=C1)[N+](=O)[O-] | C18H15BrN2O4
reactant | tributyltin methoxide | 12.2 mmol, 3.51 ml, 3.92 g | C[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | isopropenyl acetate | 12.2 mmol, 1.34 ml, 1.22 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | tri-o-tolylphosphine | 0.813 mmol, 248 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.41 mmol, 91 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(4-Nitro-benzyl)-5-(2-oxo-propyl)-1H-indole-2-carboxylic Acid Ethyl Ester | 1.91 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC(C)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C21H20N2O5
